US09388161B2
A 100-mL round-bottom flask was charged with 1-[(2S)-5-(4-amino-2-fluorophenoxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (370 mg, 0.92 mmol) and acetic acid (5 mL). Sodium nitrite (1.3 g, 18.8 mmol) was added in portions, and the mixture stirred at room temperature for 30 minutes. Sodium bisulfite (2.0 g, 18.8 mmol) and ethanol (5 mL) were added, and the resulting mixture stirred for 12 h at room temperature. The reaction mixture was concentrated under vacuum, diluted with dichloromethane, washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (eluting with 5:1, ethyl acetate/petroleum ether) to afford 1-[(2S)-6-bromo-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (300 mg, 86%) of as yellow oil. MS (ESI, pos. ion) m/z 378, 380 [M+H]+.

reactant | 1-[(2S)-5-(4-amino-2-fluorophenoxy)-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 0.92 mmol, 370 mg | NC1=CC(=C(OC2=C3CC[C@@H](N(C3=CC=C2Br)C(C)=O)C)C=C1)F | C18H18BrFN2O2
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | Sodium nitrite | 18.8 mmol, 1.3 g | N(=O)[O-].[Na+]
reactant | Sodium bisulfite | 18.8 mmol, 2.0 g | S([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-[(2S)-6-bromo-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 300 mg, 86% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=C(C=CC=C1)F | C18H17BrFNO2
